US07326732B2
(i) 6-(3-chloro-phenyl)-pyridine-2-carboxylic acid (136)
6-Bromo-pyridine-2-carboxylic acid (200 mg, 0.99 mmol) was coupled to 3-chloro-phenylboronic acid (130 mg, 0.83 mmol) using Method F to give the title compound.

reactant | 6-Bromo-pyridine-2-carboxylic acid | 0.99 mmol, 200 mg | BrC1=CC=CC(=N1)C(=O)O | C6H4BrNO2
reactant | 3-chloro-phenylboronic acid | 0.83 mmol, 130 mg | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
product | 6-(3-chloro-phenyl)-pyridine-2-carboxylic acid | ClC=1C=C(C=CC1)C1=CC=CC(=N1)C(=O)O | C12H8ClNO2
